US05677302
Synthesis of 3-[(hydroxyimino) phenylmethyl]-1,2,4-thiadiazolo[4,5-a]benzimidazole
To a solution of 0.5 g (1.79 mmol) of 3-(oxophenylmethyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole in 7 mL of ethanol was added 0.5 mL (6.46 mmol) of pyridine and 0.5 g (7.20 mmol) of hydroxylamine hydrochloride. The mixture was refluxed for overnight. The precipitate was collected by filtration, and washed with methanol and dichloromethane to give the crude product, which was recrystallized from methanol to yield 0.47 g (89%) of the title compound as white crystals. mp 247° C.; 1H NMR (DMSO-d6) δ11.89 (s, 1H), 7.81 (d, 1H), 7.73 (dd, 2H), 7.45-7.53 (m, 5H), 7.32 (t, 1H) ppm; 13C NMR (CDCl3) δ168.25, 155.24, 150.52, 147.95, 136.94, 135.67, 134.30(2C), 133.03, 131.52(2C), 130.35, 127.26, 124.28, 116.91 ppm; IR (KBr) δ2731, 1549, 1475, 1450, 1251, 1194, 983, 753, 736 cm-1. HRMS calcd for C15H10N4OS 294.0575, found 294.0583.

reactant | 3-(oxophenylmethyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole | 1.79 mmol, 0.5 g | O=C(C1=NSC2=NC3=C(N21)C=CC=C3)C3=CC=CC=C3 | C15H9N3OS
reactant | pyridine | 6.46 mmol, 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 7.20 mmol, 0.5 g | Cl.NO
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 3-[(hydroxyimino) phenylmethyl]-1,2,4-thiadiazolo[4,5-a]benzimidazole | 0.47 g, 89% | ON=C(C1=NSC2=NC3=C(N21)C=CC=C3)C3=CC=CC=C3 | C15H10N4OS
